US04752322
N-t-Butyl-2,3-dihydro-2-methyl-6-trimethylsilylbenzo[b]thiophene-7-sulfonamide
To a solution of 4.0 g of N-t-butyl-2,3-dihydro-2-methylbenzo[b]thiophene-7-sulfonamide in 175 ml of dry tetrahydrofuran was added 20 ml of a 1.6M hexane solution of n-butyl lithium at -40° C. to -30° C. under an inert atmosphere. The mixture was allowed to warm and was stirred at room temperature for 30 minutes. It was recooled to -30° C. and was contacted with 3.0 ml of chlorotrimethylsilane. The mixture was stirred at room temperature for 2 hours and was acidified with 10 ml of 6N hydrochloric acid. The organic layer was separated, was dried over magnesium sulfate, and was concentrated to a crude solid which was suspended in chlorobutane/hexane and filtered to give 2.0 g of the title compound as a beige solid, m.p. 119°-124° C.

reactant | N-t-butyl-2,3-dihydro-2-methylbenzo[b]thiophene-7-sulfonamide | 4.0 g | C(C)(C)(C)NS(=O)(=O)C1=CC=CC2=C1SC(C2)C | C13H19NO2S2
reactant | n-butyl lithium | C(CCC)[Li]
reactant | chlorotrimethylsilane | 3.0 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | hydrochloric acid | 6N, 10 ml | Cl | ClH
solvent | tetrahydrofuran | 175 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.6M | CCCCCC | C6H14
product | N-t-Butyl-2,3-dihydro-2-methyl-6-trimethylsilylbenzo[b]thiophene-7-sulfonamide | 2.0 g | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC2=C1SC(C2)C)[Si](C)(C)C | C16H27NO2S2Si
